data/oMe_Silver.jsonl
{"reaction_id": "NR-236_1-c1ccsc1_2-C","level": "medium","name": "Sommelet Reaction","reactants_smiles": ["c1ccsc1C(C)Br","C1N2CN3CN1CN(C2)C3"],"products_smiles": ["c1ccsc1C(C)=O"],"conditions": "H2O","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1N2CN3CN1C[N+](C(c1ccsc1)(C))(C2)C3","step_weight": 0,"rationale": "The benzylic carbon is highly electrophilic due to resonance stabilization of the developing cation, and bromide is a good leaving group, enabling nucleophilic substitution by hexamine to form a stable quaternary ammonium salt."},{"step": 2,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C1N2[CH2]N(C[N+]1=[CH2])CN(C2)C(c1ccsc1)(C)","step_weight": 0,"rationale": "The quaternary ammonium salt undergoes [2,3]-sigmatropic rearrangement driven by relief of ring strain and formation of a conjugated iminium system, which is stabilized by adjacent aromatic or electron-donating effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[CH2]1N2CN(C[N]1C)C[N+](C2)=C(c1ccsc1)(C)","step_weight": 0,"rationale": "Water, abundant under the reaction conditions, attacks the electrophilic iminium carbon due to its strong partial positive charge, forming a carbinolamine intermediate stabilized by adjacent nitrogen."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccsc1C(C)=O","step_weight": 0,"rationale": "The carbinolamine eliminates the amine, favored by the stability of the departing amine and the formation of a strong C=O bond in the aldehyde product."}],"description": "Hexamine attacks the benzylic bromide to form a stable quaternary ammonium salt, which rearranges via a [2,3]-sigmatropic shift to an iminium ion. Hydrolysis under aqueous conditions converts the iminium to a carbinolamine, which eliminates amine to yield the aldehyde."}
{"reaction_id": "NR-204_2-CCCC_3-c3ccccc3C","level": "hard","name": "Nenitzescu Indole Synthesis","reactants_smiles": ["O=C1C=CC(=O)C=C1","C=C(N([H])CCCC)C(=O)Oc3ccccc3C"],"products_smiles": ["C1=C(O)C=CC2=C1C(C(=O)c3ccccc3C)=CN(CCCC)2"],"conditions": "Acetic acid","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC(C1C(C(C2=CC=CC=C2)=[NH+](CCCC))C(=O)O(c3ccccc3C))=O)O","step_weight": 0,"rationale": "The β-aminocrotonate enamine acts as a nucleophile, attacking the electrophilic β-carbon of 1,4-benzoquinone due to strong conjugation and electron withdrawal by the carbonyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC(C1C(=C(C2=CC=CC=C2)[NH](CCCC))C(=O)O(c3ccccc3C))=O)O","step_weight": 0,"rationale": "Proton transfer stabilizes the adduct by neutralizing charge and preparing the intermediate for intramolecular cyclization under acidic conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(c3ccccc3C))O)O","step_weight": 0,"rationale": "The amine nitrogen attacks the carbonyl carbon intramolecularly, favored by proximity and the electrophilicity enhanced by conjugation and acid activation."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(c3ccccc3C))[OH2+])O","step_weight": 0,"rationale": "Protonation of the hydroxyl group creates a good leaving group, facilitating subsequent elimination to form the indole ring system."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C1=C(C=CC3(C1C(=C(C2=CC=CC=C2)[N+]=3(CCCC))C(=O)O(c3ccccc3C)))O","step_weight": 0,"rationale": "Loss of water occurs because the protonated hydroxyl is an excellent leaving group, driving formation of the iminium intermediate and partial ring aromatization."},{"step": 6,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "C1=C(C=CC3(=C1C(=C(C2=CC=CC=C2)N3(CCCC))C(=O)O(c3ccccc3C)))O","step_weight": 0,"rationale": "Deprotonation restores full aromaticity of the indole core, a thermodynamically favorable step that completes the synthesis."}],"description": "Under acidic conditions, the β-aminocrotonate undergoes Michael addition to 1,4-benzoquinone, forming a conjugated adduct. Subsequent intramolecular nucleophilic attack and proton transfers enable cyclization to the indole core, followed by elimination steps to restore aromaticity and yield the 5-hydroxyindole product."}
